US04792208
Butyl 6-[N-methyl-N-(4-formylphenyl)amino]hexanoate
Phosphorus oxychloride (18.4 g, 0.12 mol) was added dropwise with stirring, at 5° C., under nitrogen, to N,N-dimethylformamide (DMF, 50 mL). The resulting orange solution was stirred for 2 hours, then 27.6 g (0.81 mol) of butyl 6-(N-methyl-N-phenylamino)hexanoate was dropwise. The reaction mixture was stirred at 5° C. for 1 hour and then was heated in a water bath to 90° C., for 4 hours. After cooling the hot solution was poured over 200 g of crushed ice and naturalized to pH 6 by a slow addition of solid sodium acetate with vigorous stirring. The mixture was extracted with three portions of 200 mL dichloromethane. The combined organic extracts were washed three times with water, dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was distilled in vacuo yielding 23.4 g (76.8%) of pale yellow oil bp 151°-153° C. (3×10-4 mm).

reactant | Phosphorus oxychloride | 0.12 mol, 18.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | butyl 6-(N-methyl-N-phenylamino)hexanoate | 0.81 mol, 27.6 g | CN(C1=CC=CC=C1)CCCCCC(=O)OCCCC | C17H27NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Butyl 6-[N-methyl-N-(4-formylphenyl)amino]hexanoate | 23.4 g, 76.8% | CN(C1=CC=C(C=C1)C=O)CCCCCC(=O)OCCCC | C18H27NO3
